US08471005B2
N-tert-Butyl-3-{2-[4-chloro-3-(1-methyl-pyrrolidin-2-ylmethoxy)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-benzenesulfonamide
Prepared by following a procedure analagous to Example 1255c by using 4-Chloro-3-(1-methyl-pyrrolidin-2-ylmethoxy)-phenylamine and N-tert-Butyl-3-(2-hydroxy-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-benzenesulfonamide. 1H-NMR (DMSO) δ 9.8 (brs, 1H), 9.7 (s, 1H), 9 (s, 1H), 8.6 (s, 1H), 8.3 (d, J=8.0 Hz, 1H), 7.8 (d, J=8.0 Hz, 1H), 7.7 (t, 1H), 7.6 (s, 1H), 7.5 (d, J=8.7 Hz, 1H), 7.4 (m, 2H), 7.2 (d, J=4.7 Hz, 1H), 7.0 (d, J=4.7 Hz, 1H), 4.2 (m, 1H), 4.0 (m, 1H), 3.8 (m, 1H), 3.6 (m, 1H), 3.1 (m, 1H), 3.0 (s, 3H), 2.2 (m, 1H), 2.0 (m, 1H), 1.9 (m, 1H), 1.6 (m, 1H); LC/MS (ESI+): 569 (M+H).

reactant | 4-Chloro-3-(1-methyl-pyrrolidin-2-ylmethoxy)-phenylamine | ClC1=C(C=C(C=C1)N)OCC1N(CCC1)C | C12H17ClN2O
reactant | N-tert-Butyl-3-(2-hydroxy-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-benzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=CC=C2C=NC(=NN21)O | C16H18N4O3S
product | N-tert-Butyl-3-{2-[4-chloro-3-(1-methyl-pyrrolidin-2-ylmethoxy)-phenylamino]-pyrrolo[2,1-f][1,2,4]triazin-7-yl}-benzenesulfonamide | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=CC=C2C=NC(=NN21)NC2=CC(=C(C=C2)Cl)OCC2N(CCC2)C | C28H33ClN6O3S
